US04563306
Separately, (3S)-1-oxo-1,2,3,4-tetrahyroisoquinoline-3-carboxylic acid (70 mg, 0.36 mmole) and N-hydroxysuccinimide (41 mg, 0.36 mmole) are dissolved in DMF (5 ml) and thereto is added DCC (74 mg, 0.36 mmole) under ice-cooling. The mixture is stirred for 1.5 hours. To the solution of the activated ester thus prepared are added the (4R)-3-(L-histidyl)-thiazolidine-4-carboxamide dihydrochloride (150 mg, 0.4 mmole) prepared above and triethylamine (0.21 ml, 0.8 mmole) under ice-cooling. The mixture is stirred at 8° C. for 24 hours. The precipitated DCU is filtered off, and the filtrate is concentrated under reduced pressure. The residue is dissolved in water, and the solution is adjusted to pH 8 with sodium bicarbonate and is passed through a column (2.3×26 cm) packed with CHP-20P resin. The column is washed with water (500 ml) and further with 30% methanol (one liter), and then the product is eluted with 50% methanol. The fractions being positive to Pauly reagent are collected, distilled to remove methanol, and then lyophilized to give (4R)-3-{Nα -[(3S)-1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]-L-histidyl}-thiazolidine-4-carboxamide (70 mg, yield: 41.8%).

reactant | (3S)-1-oxo-1,2,3,4-tetrahyroisoquinoline-3-carboxylic acid | 0.36 mmole, 70 mg | O=C1N[C@@H](CC2=CC=CC=C12)C(=O)O | C10H9NO3
reactant | N-hydroxysuccinimide | 0.36 mmole, 41 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 0.36 mmole, 74 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (4R)-3-(L-histidyl)-thiazolidine-4-carboxamide dihydrochloride | 0.4 mmole, 150 mg | Cl.Cl.N[C@@H](CC1=CNC=N1)C(=O)N1CSC[C@H]1C(=O)N
reactant | triethylamine | 0.8 mmole, 0.21 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (4R)-3-{Nα -[(3S)-1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]-L-histidyl}-thiazolidine-4-carboxamide | 70 mg, yield: 41.8% | O=C1N[C@@H](CC2=CC=CC=C12)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1CSC[C@H]1C(=O)N | C20H22N6O4S
